US05064959
Methyl 3-cyanobenzoate (70 pw) are mixed with trichloroacetonitrile (376 pw) and aluminum bromide (13.9 pw) as described in Example 1, step 2, hydrogen chloride gas is added, the mixture is allowed to react and the reaction product is separated. Recrystallization from ethanol gives 160 pw=82% of white crystals of methyl 3-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoate. M.p.: 115 to 117° C.

reactant | Methyl 3-cyanobenzoate | C(#N)C=1C=C(C(=O)OC)C=CC1 | C9H7NO2
reactant | trichloroacetonitrile | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | aluminum bromide | [Br-].[Al+3].[Br-].[Br-]
reactant | hydrogen chloride | Cl | ClH
product | methyl 3-(4,6-bis(trichloromethyl)-s-triazin-2-yl)benzoate | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C=1C=C(C(=O)OC)C=CC1)(Cl)Cl | C13H7Cl6N3O2
